US06410550B1
D) 6-Methyl-7-propyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene-13-carboxylic acid tert-butyl ester (For conditions, see; Pilarski, B. Liebigs Ann. Chem. 1983, 1078.)
6-Methyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene-13-carboxylic acid tert-butyl ester (80 mg, 0.267 mmol) was stirred in 50% aqueous NaOH solution (3 mL) and DMSO (1 mL) then treated with 1-iodopropane (0.03 mL, 0.321 mmol). This mixture was warmed to 40° C. for 2 hours then cooled, treated with H2O and extracted with EtOAc. The organic layer was washed with H2O (3×) then dried (Na2SO4), filtered and concentrated to an oil (90 mg,.0.253 mmol). (TLC 5% MeOH/CH2Cl2 (NH3) Rf 0.15).

reactant | 6-Methyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene-13-carboxylic acid tert-butyl ester | 0.267 mmol, 80 mg | C(C)(C)(C)OC(=O)N1CC2C=3C=C4NC(=NC4=CC3C(C1)C2)C | C18H23N3O2
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
reactant | 1-iodopropane | 0.321 mmol, 0.03 mL | ICCC | C3H7I
reactant | H2O | O | H2O
solvent | NaOH | 3 mL | [OH-].[Na+]
product | 6-Methyl-7-propyl-5,7,13-triazatetracyclo[9.3.1.02,10.04,8]pentadeca-2(10),3,5,8-tetraene-13-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C=3C=C4N(C(=NC4=CC3C(C1)C2)C)CCC | C21H29N3O2
